US06310033B1
Preparation of 2,4-dimethyl-5-phenylpentan-1-ol
Into a one liter flask equipped with a mechanical air stirrer, temperature probe, nitrogen inlet, autojack, and cooling bath was placed 50 mL methanol, 2,4-dimethyl-5-phenylpentanal (50.0 g, 0.26 mol), and acetic acid (11.0 g, 0.18 mol). To the stirred solution was added NaBH4 (70 g, 0.18 mol) in 50 mL of methanol over a period of two hours while maintaining the reaction temperature at 20° C. Water was then added until the all materials went into solution and 200 mL methyl t-butyl ether was then added. The organic phase was isolated, washed with three 50 mL portions of saturated NaCl solution, dried over magnesium sulfate, filtered, and rotovapped to give the product as a colorless liquid (49.9 g), odor—fresh, green herbal.

reactant | 2,4-dimethyl-5-phenylpentanal | 0.26 mol, 50.0 g | CC(C=O)CC(CC1=CC=CC=C1)C | C13H18O
reactant | acetic acid | 0.18 mol, 11.0 g | C(C)(=O)O | C2H4O2
reactant | NaBH4 | 0.18 mol, 70 g | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 50 mL | CO | CH4O
solvent | methanol | 50 mL | CO | CH4O
solvent | methyl t-butyl ether | 200 mL | C(C)(C)(C)OC | C5H12O
product | 2,4-dimethyl-5-phenylpentan-1-ol | 49.9 g | CC(CO)CC(CC1=CC=CC=C1)C | C13H20O
